US04826869
1-Methyl-2-(3'-ureidobenzyl)pyrrolidine
A solution of 2 g (8.7 mmol) of 1-methyl-2-(3-ureidobenzyl)pyrrole, prepared, for example, as described in Preparation 3E, in 80 ml of glacial acetic acid was hydrogenated at 45 p.s.i. in the presence of 1.5 g of 5% rodium on activated alumina as catalyst, for 1 hour. The catalyst was then separated by filtration and the filtrate evaporated in vacuo. The residue was suspended in 100 ml of methylene chloride and 20 ml of ammonium hydroxide was added. The mixture was dried over sodium sulfate and evaporated under reduced pressure. Crystallization of the residue from acetone-ether afforded 870 mg (43%) of the title compound, 1-methyl-2-(3'-ureidobenzyl)pyrrolidine. M.P. 133°-135° C. (ether)

reactant | 1-methyl-2-(3-ureidobenzyl)pyrrole | 8.7 mmol, 2 g | CN1C(=CC=C1)CC1=CC(=CC=C1)NC(=O)N | C13H15N3O
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 1-Methyl-2-(3'-ureidobenzyl)pyrrolidine | 870 mg, 43% | CN1C(CCC1)CC1=CC(=CC=C1)NC(=O)N | C13H19N3O
